US07423185B2
2-Ethyl-4′-{(1S,2R)-2-[2-hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}biphenyl-4-carboxylic acid (compound 153)
A mixture of 4-((1R,2S)-2-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]ethylamino}-1-hydroxypropyl)phenol (0.04 g), 4-bromo-3-ethylbenzoic acid (0.044 g), tetrakis(triphenylphosphine)palladium (0.011 g), cesium fluoride (0.088 g), 1,4-dioxane (0.6 mL), ethanol (0.12 mL) and water (0.2 mL) was stirred at 140° C. for 5 min in a sealed tube. After being cooled to room temperature, the reaction mixture was purified by SCX ion exchange column chromatography (2 g, preconditioning: tetrahydrofuran, washing solvent:tetrahydrofuran, eluent:2 mol/L ammonia in methanol), followed by reverse phase column chromatography (Shiseido Capcell Pak C18 ODS, 5 μm, 120 Å, 20×50 mm, linear gradient 0.1% aqueous formic acid/acetonitrile=90/10-60/40) to afford the title compound (0.010 g) as a white amorphous. The structure and physical data were shown in table 3.

reactant | 4-((1R,2S)-2-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]ethylamino}-1-hydroxypropyl)phenol | 0.04 g | CC1(OB(OC1(C)C)C1=CC=C(OCCN[C@H]([C@H](O)C2=CC=C(C=C2)O)C)C=C1)C | C23H32BNO5
reactant | 4-bromo-3-ethylbenzoic acid | 0.044 g | BrC1=C(C=C(C(=O)O)C=C1)CC | C9H9BrO2
reactant | cesium fluoride | 0.088 g | [F-].[Cs+]
reactant | 1,4-dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.2 mL | O | H2O
solvent | ethanol | 0.12 mL | C(C)O | C2H6O
product | 2-Ethyl-4′-{(1S,2R)-2-[2-hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}biphenyl-4-carboxylic acid | 0.010 g | C(C)C1=C(C=CC(=C1)C(=O)O)C1=CC=C(C=C1)OCCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C26H29NO5
